US08404679B2
N-{(3RS,4SR)-4-(3,4-Dichloro-phenyl)-1-[1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-4,4,4-trifluoro-N-methyl-butyramide
To a solution of 4,4,4-trifluorobutyric acid (43 mg, 0.304 mmol) in NMP (1 ml) was added at ambient temperature 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate (89 mg, 0.28 mmol) and N,N-diisopropyl ethyl amine (130 μl, 0.760 mmol). After stirring for 15 min a solution {4-[(3SR,4RS)-3-(3,4-dichloro-phenyl)-4-methylamino-pyrrolidine-1-carbonyl]-piperidin-1-yl}-(1-methyl-cyclopropyl)-methanone (111 mg, 0.253 mmol) in NMP (1 mL) was added and stirred for 18 h at ambient temperature. The reaction mixture was diluted with ethyl acetate (15 mL) and washed with aqueous sodium carbonate (1 M, 15 mL), water (15 mL) and brine (15 mL). The aqueous layers were extracted with ethyl acetate (15 mL) and the combined organic layers were dried over sodium sulfate. Purification by chromatography (SiO2, heptane:ethyl acetate:methanol=20:80:0 to 0:85:15) afforded the title compound (109 mg, 77%) as an off-white foam. MS m/e: 562.2 [M]+.

reactant | 4,4,4-trifluorobutyric acid | 0.304 mmol, 43 mg | FC(CCC(=O)O)(F)F | C4H5F3O2
reactant | 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | 0.28 mmol, 89 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diisopropyl ethyl amine | 0.760 mmol, 130 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | {4-[(3SR,4RS)-3-(3,4-dichloro-phenyl)-4-methylamino-pyrrolidine-1-carbonyl]-piperidin-1-yl}-(1-methyl-cyclopropyl)-methanone | 0.253 mmol, 111 mg | ClC=1C=C(C=CC1Cl)C1CN(CC1NC)C(=O)C1CCN(CC1)C(=O)C1(CC1)C | C22H29Cl2N3O2
solvent | NMP | 1 ml | CN1CCCC1=O | C5H9NO
solvent | NMP | 1 mL | CN1CCCC1=O | C5H9NO
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | N-{(3RS,4SR)-4-(3,4-Dichloro-phenyl)-1-[1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-4,4,4-trifluoro-N-methyl-butyramide | 109 mg, 77% | ClC=1C=C(C=CC1Cl)C1C(CN(C1)C(=O)C1CCN(CC1)C(=O)C1(CC1)C)N(C(CCC(F)(F)F)=O)C | C26H32Cl2F3N3O3
